US08614213B2
Step 4: Trans-(4-Phenylaminomethyl-cyclohexyl)carbamic acid tert-butyl ester
Trans-(4-Formyl-cyclohexyl)carbamic acid tert-butyl ester (3.27 g, 14.38 mmol) and aniline (1.98 mL, 15.81 mmol) are dissolved in dichloromethane (60 mL) at room temperature. Sodium triacetoxyborohydride (4.57 g, 21.57 mmol) is added in one portion and the mixture is stirred at room temperature for 2.5 hours. 1N sodium hydroxide solution (20 mL) is added and the mixture is stirred at room temperature for a further 10 minutes. The DCM layer is separated and washed successively with water and saturated brine, dried (MgSO4), filtered and evaporated to give a colourless solid. This is slurried with iso-hexane, filtered and dried to give a colourless solid; [MH+305]

reactant | Trans-(4-Formyl-cyclohexyl)carbamic acid tert-butyl ester | 14.38 mmol, 3.27 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=O)=O | C12H21NO3
reactant | aniline | 15.81 mmol, 1.98 mL | NC1=CC=CC=C1 | C6H7N
reactant | Sodium triacetoxyborohydride | 21.57 mmol, 4.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
reactant | iso-hexane | CCCC(C)C | C6H14
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | Trans-(4-Phenylaminomethyl-cyclohexyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CNC1=CC=CC=C1)=O | C18H28N2O2
